US06995263B2
a] (Z) -4,4,4-Trifluoro-3-hydroxy-1-(4-trifluoromethoxy-phenyl)-but-2-en-1-one
To a toluene (50 ml) suspension of potassium t-butoxide (3.3 g, 29 mmol) and 1-(4-trifluoromethoxy-phenyl)-ethanone (3.9 ml, 24 mmol) under an argon atmosphere was added dropwise ethyl trifluoroacetate (3.4 ml, 29 mmol) at 10° C. The suspension was stirred at ambient temperature for 14 h. The pH value of the mixture was adjusted to 6 with 10% H2SO4, the solution was extracted two times with t-butyl methylether and the combined extracts were washed with brine/ice water 1/1. The organic layer was dried over sodium sulfate, concentrated under reduced pressure and the residue purified by column chromatography (silica gel, n-heptane/ethyl acetate) to yield 2.9 g (9.7 mmol, 40%) of the title compound as orange oil.

reactant | potassium t-butoxide | 29 mmol, 3.3 g | CC(C)([O-])C.[K+]
reactant | 1-(4-trifluoromethoxy-phenyl)-ethanone | 24 mmol, 3.9 ml | FC(OC1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O2
reactant | ethyl trifluoroacetate | 29 mmol, 3.4 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (Z) -4,4,4-Trifluoro-3-hydroxy-1-(4-trifluoromethoxy-phenyl)-but-2-en-1-one | 9.7 mmol, 2.9 g, 40% | FC(/C(=C/C(=O)C1=CC=C(C=C1)OC(F)(F)F)/O)(F)F | C11H6F6O3
